US09120781B2
To a solution of (3aS,4R,5R,6R,7aS)-4-(benzyloxy)-6-((benzyloxy)methyl)-5-hydroxyhexahydrobenzo[d]oxazol-2(3H)-one (Tetrahedron Lett. 1993, 34, 1525-1528) (235 mg, 0.614 mmol) in dry DCM (1.5 mL) under N2 at 0° C. was added methyl triflate (0.135 mL, 1.23 mmol) dropwise. The mixture was stirred at room temperature for 18 h. The reaction was cooled to 0° C. and ethylamine (0.40 mL, 6.14 mmol) was added. The mixture was stirred at 0° C. for 5 h. The mixture was diluted with aqueous satd. NaHCO3 (15 mL), extracted with DCM (2×15 mL). The extracts were dried (K2CO3) and concentrated to give the crude product (197 mg). This was purified by silica gel chromatography, eluted with 40-60% EtOAc in hexanes to recover the starting material (107 mg, recovery 46%). Further eluted the column with 92:6:2 DCM-MeOH—NH4OH to give the product (3aS,4R,5R,6R,7aS)-4-(benzyloxy)-6-((benzyloxy)methyl)-2-(ethylamino)-3a,4,5,6,7,7a-hexahydrobenzo[d]oxazol-5-ol (46 mg, 18%). 1H NMR (600 MHz, CDCl3) δ 7.38-7.27 (m, 10H), 4.89 (d, J=11.6, 1H), 4.72-4.69 (m, 1H), 4.69 (d, J=8.2, 1H), 4.53 (s, 2H), 3.99 (t, J=6.8, 1H), 3.61-3.54 (m, 3H), 3.46 (t, J=6.4, 1H), 3.29-3.20 (m, 2H), 2.11 (dt, J=14.8, 3.0, 1H), 1.94-1.88 (m, 1H), 1.78 (ddd, J=15.7, 12.4, 4.0, 1H), 1.18 (t, J=7.2, 3H).

reactant | (3aS,4R,5R,6R,7aS)-4-(benzyloxy)-6-((benzyloxy)methyl)-5-hydroxyhexahydrobenzo[d]oxazol-2(3H)-one | 0.614 mmol, 235 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H]([C@H](C[C@H]2[C@@H]1NC(O2)=O)COCC2=CC=CC=C2)O | C22H25NO5
reactant | methyl triflate | 1.23 mmol, 0.135 mL | O(S(=O)(=O)C(F)(F)F)C | C2H3F3O3S
reactant | ethylamine | 6.14 mmol, 0.40 mL | C(C)N | C2H7N
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | (3aS,4R,5R,6R,7aS)-4-(benzyloxy)-6-((benzyloxy)methyl)-2-(ethylamino)-3a,4,5,6,7,7a-hexahydrobenzo[d]oxazol-5-ol | 46 mg, 18% | C(C1=CC=CC=C1)O[C@H]1[C@@H]([C@H](C[C@H]2[C@@H]1N=C(O2)NCC)COCC2=CC=CC=C2)O | C24H30N2O4
